US06110956
2-Methoxy-4-methylthio-5-fluoro-phenol (56)
To a solution of 1,2-difluoro-4,5-dimethoxybenzene (2.61 g, 15 mmol) in N,N-dimethylformamide (20 ml) was added sodium thiomethoxide (95%, 1.11 g, 15 mmol). The reaction was allowed to reflux for 3 hours and then was cooled to room temperature. The mixture was poured into 200 ml ice-water and neutralized with 2 N HCl. The aqueous layer was extracted with ethyl ether (2×100 ml), washed with water, dried over anhydrous sodium sulfate and filtered. The solvent was removed under vacuum to afford a mixture of the two title products.

reactant | 1,2-difluoro-4,5-dimethoxybenzene | 15 mmol, 2.61 g | FC1=C(C=C(C(=C1)OC)OC)F | C8H8F2O2
reactant | sodium thiomethoxide | 15 mmol, 1.11 g | C[S-].[Na+]
reactant | HCl | 2 N | Cl | ClH
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-Methoxy-4-methylthio-5-fluoro-phenol | COC1=C(C=C(C(=C1)SC)F)O | C8H9FO2S
